* C:\Users\iiitk\Documents\2023kuec2014\full adder 2006.asc
M1 N007 B N012 N007 PMOS l=180nm w=810nm
M2 N007 A N012 N007 PMOS l=180nm w=810nm
M3 N012 B N014 0 NMOS l=180nm w=270nm
M4 N014 A 0 0 NMOS l=180nm w=270nm
V1 A 0 PULSE(0 1.8 0 0.01n 0.01n 10n 20n)
V2 B 0 PULSE(0 1.8 0 0.01n 0.01n 20n 40n)
V3 N007 0 1.8
C1 N012 0 50f
M6 N002 N012 0 0 NMOS l=180nm w=270nm
M7 N009 N012 N002 N009 PMOS l=180nm w=810nm
C2 N002 0 50f
V4 N009 0 1.8
M5 N019 A N022 N019 PMOS l=180nm w=810nm
M8 N016 N022 N024 N016 PMOS l=180nm w=810nm
M9 N024 A N010 N016 PMOS l=180nm w=810nm
M10 N016 N020 N024 N016 PMOS l=180nm w=810nm
M11 N024 B N010 N016 PMOS l=180nm w=810nm
M12 N022 A 0 0 NMOS l=180nm w=270nm
M13 N020 B 0 0 NMOS l=180nm w=270nm
M14 N010 N022 N028 0 NMOS l=180nm w=270nm
M15 N028 N020 0 0 NMOS l=180nm w=270nm
M16 N010 A N028 0 NMOS l=180nm w=270nm
M17 N028 B 0 0 NMOS l=180nm w=270nm
M18 N026 B N020 N026 PMOS l=180nm w=810nm
V7 N019 0 1.8
V8 N026 0 1.8
V9 N016 0 1.8
C3 N010 0 50f
M19 N006 N010 N011 N006 PMOS l=180nm w=810nm
M20 N006 C N011 N006 PMOS l=180nm w=810nm
M21 N011 N010 N013 0 NMOS l=180nm w=270nm
M22 N013 C 0 0 NMOS l=180nm w=270nm
V10 N006 0 1.8
C4 N011 0 50f
M23 N005 N011 0 0 NMOS l=180nm w=270nm
M24 N008 N011 N005 N008 PMOS l=180nm w=810nm
C5 N005 0 50f
V11 N008 0 1.8
M25 N017 C N021 N017 PMOS l=180nm w=810nm
M26 N015 N021 N023 N015 PMOS l=180nm w=810nm
M27 N023 C SUM N015 PMOS l=180nm w=810nm
M28 N015 N018 N023 N015 PMOS l=180nm w=810nm
M29 N023 N010 SUM N015 PMOS l=180nm w=810nm
M30 N021 C 0 0 NMOS l=180nm w=270nm
M31 N018 N010 0 0 NMOS l=180nm w=270nm
M32 SUM N021 N027 0 NMOS l=180nm w=270nm
M33 N027 N018 0 0 NMOS l=180nm w=270nm
M34 SUM C N027 0 NMOS l=180nm w=270nm
M35 N027 N010 0 0 NMOS l=180nm w=270nm
M36 N025 N010 N018 N025 PMOS l=180nm w=810nm
V12 N017 0 1.8
V13 N025 0 1.8
V14 N015 0 1.8
C6 SUM 0 50f
M37 N001 N002 N004 N001 PMOS l=180nm w=810nm
M38 N004 N005 N003 N001 PMOS l=180nm w=810nm
M40 N003 N005 0 0 NMOS l=180nm w=270nm
M41 N003 N002 0 0 NMOS l=180nm w=270nm
V15 N001 0 1.8
M39 N001 N003 Cout N001 PMOS l=180nm w=810nm
M42 Cout N003 0 0 NMOS l=180nm w=270nm
C7 Cout 0 50f
V5 C 0 PULSE(0 1.8 0 0.01n 0.01n 30n 60n)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\iiitk\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 100n 0 0.01n
* .tran 0 100n 0 0.01n
.backanno
.end
